US04496720
A mixture of 11.52 g (63 mmoles) of phenylthio(trimethyl)silane, 22 ml of hexamethylphosphoric triamide and 18.8 ml (250 mmoles) of ethyl bromide was heated in a bath at 40° C. for 2 hours after which the conversion was complete. A solid formed in the reaction mixture and heating was continued for 1 hour after which the mixture was poured into a mixture of 150 ml of ethyl acetate and 50 ml of water. The ethyl acetate layer was separated and washed sequentially twice with 50 ml of water, 50 ml of a saturated sodium bicarbonate solution and twice with 25 ml of water. The combined water layers were extracted three times with 25 ml of ethyl acetate and the combined organic phases were washed twice with 25 ml of water, dried and evaporated to dryness. The residue was vacuum distilled to obtain 7.25 g (83% yield) of ethyl phenyl sulfide with a boiling point of 81.5°-84° C./14 mm Hg and a refractive index of nD25 =1.5632.

reactant | phenylthio(trimethyl)silane | 63 mmoles, 11.52 g | C1(=CC=CC=C1)S[Si](C)(C)C | C9H14SSi
reactant | hexamethylphosphoric triamide | 22 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | ethyl bromide | 250 mmoles, 18.8 ml | C(C)Br | C2H5Br
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | ethyl phenyl sulfide | 7.25 g, 83% yield | C1(=CC=CC=C1)SCC | C8H10S
